US05719141
p) 1-Benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-2-methoxycarbonyleth-1yl]cyclopropane
25.3 g of di-tert-butyl dicarbonate are added to a solution of 27.7 g of 1-benzyloxymethyl-1-[2(S)-amino-2-methoxycarbonyleth-1-yl]cyclopropane in 250 ml of tetrahydrofuran, while cooling with ice, and, after warming up, the mixture is stirred at room temperature for 4 h. The residue obtained after concentration of the reaction mixture is chromatographed over 900 g of silica gel (mobile phase D). This gives the pure title compound (34.8 g as a yellowish oil: Rf (D)=0.33.

reactant | di-tert-butyl dicarbonate | 25.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-benzyloxymethyl-1-[2(S)-amino-2-methoxycarbonyleth-1-yl]cyclopropane | 27.7 g | C(C1=CC=CC=C1)OCC1(CC1)C[C@@H](C(=O)OC)N | C15H21NO3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-2-methoxycarbonyleth-1yl]cyclopropane | C(C1=CC=CC=C1)OCC1(CC1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C20H29NO5
